US07855297B2
By the reaction and treatment in the same manner as in Example 142 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.53 g) and 2-(2-butoxyethoxy)-5-(hydroxymethyl)pyridine (0.30 g) as starting materials, 5-benzyloxy-N-{[6-(2-butoxyethoxy)pyridin-3-yl]methyl}-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.40 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.53 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)C(C)C | C26H28N2O2
reactant | 2-(2-butoxyethoxy)-5-(hydroxymethyl)pyridine | 0.30 g | C(CCC)OCCOC1=NC=C(C=C1)CO | C12H19NO3
product | 5-benzyloxy-N-{[6-(2-butoxyethoxy)pyridin-3-yl]methyl}-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.40 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NC(=CC1)OCCOCCCC | C38H45N3O4
